US07585885B2
(S)-2-sec-Butylamino-6-dimethylsulfamoyl-isonicotinic acid methyl ester
Add toluene (20 mL), 2-chloro-6-dimethylsulfamoyl-isonicotinic acid methyl ester (2.49 g, 8.93 mmol), palladium acetate (0.201 g, 0.893 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.556 g, 0.893 mmol) and cesium carbonate (4.36 g, 13.4 mmol) to a sealed vessel flushed with nitrogen. Slowly add (S)-sec-butylamine (1.36 mL, 13.4 mmol) to the mixture. Heat and stir the sealed vessel at 90° C. overnight. Cool to room temperature, filter through a pad of filtering agent, concentrate and purify (silica gel chromatography, eluting with 20:80 to 30:70 ethyl acetate:hexanes) to give the title compound (1.43 g, 51%).

reactant | 2-chloro-6-dimethylsulfamoyl-isonicotinic acid methyl ester | 8.93 mmol, 2.49 g | COC(C1=CC(=NC(=C1)S(N(C)C)(=O)=O)Cl)=O | C9H11ClN2O4S
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.893 mmol, 0.556 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 13.4 mmol, 4.36 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-sec-butylamine | 13.4 mmol, 1.36 mL | [C@H](C)(CC)N | C4H11N
catalyst | palladium acetate | 0.893 mmol, 0.201 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-sec-Butylamino-6-dimethylsulfamoyl-isonicotinic acid methyl ester | 1.43 g, 51% | COC(C1=CC(=NC(=C1)S(N(C)C)(=O)=O)N[C@@H](C)CC)=O | C13H21N3O4S
